US07645771B2
To a stirred solution of 4-chloro-3-(chlorosulfonyl)benzoic acid (25.4 mg, 0.1 mmol) in dichloromethane (3 mL) was added propylamine (9 μL, 0.11 mmol), N,N-diisopropylethylamine (39 mg, 0.3 mmol) and 4-N,N-dimethylaminopyridine (2 mg, 0.016 mmol). After the resultant mixture was stirred overnight, a solution of 2-methyl-1-{(1R,5S)-8-[2-(4-phenyl piperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride (50 mg, 0.1 mmol) in N,N-dimethylforamide (3 mL) was added and followed by addition of N,N-diisopropylethylamine (39 mg, 0.3 mmol) and HATU (38 mg. 0.1 mmol). The reaction mixture was stirred for further 4 hours before it was quenched with saturated sodium bicarbonate solution and extracted with dichloromethane. The combined organic extracts were dried over anhydrous sodium sulfate. After evaporation of solvents, the residue was purified by flash chromatography, eluting with a gradient of 0-8% methanol in ethyl acetate to afford 2-chloro-5-[(4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]-N-propylbenzenesulfonamide as solid (30 mg, 43%). 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.65 (s, 2H), 7.38 (t, J=7.5 Hz, 2H), 7.30-7.23 (m, 4H), 7.19-7.12 (m, 2H), 5.10 (t, J=6.0 Hz, 1H), 4.64-4.59 (m, 1H), 4.19 (br, 1H), 3.48 (br, 1H), 3.34-3.35 (m, 4H), 2.90 (q, J=6.3 Hz, 2 H), 2.57 (s, 3H), 2.42-2.34 (m, 3H), 2.20 (br, 1H), 1.94-1.78 (m, 10H), 1.62 (d, J=6.4 Hz, 2H), 1.54-1.45 (m, 2H), 0.88 (t, J=7.5 Hz, 3H). HRMS m/z (M+H)+ calcd: 688.3088, obsd: 688.3063.

reactant | 4-chloro-3-(chlorosulfonyl)benzoic acid | 0.1 mmol, 25.4 mg | ClC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | propylamine | 0.11 mmol, 9 μL | C(CC)N | C3H9N
reactant | N,N-diisopropylethylamine | 0.3 mmol, 39 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methyl-1-{(1R,5S)-8-[2-(4-phenyl piperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride | 0.1 mmol, 50 mg | Cl.Cl.CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2
reactant | N,N-diisopropylethylamine | 0.3 mmol, 39 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.1 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylforamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-chloro-5-[(4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]-N-propylbenzenesulfonamide | 30 mg, 43% | ClC1=C(C=C(C=C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)S(=O)(=O)NCCC | C38H46ClN5O3S
